US05569659
1-[3-[[4-[2-(1-Methylethoxy)phenyl]-1-piperazinyl]methyl]thiobenzoyl]piperidine Hydrochloride (CP #1)
A solution of 1-[3-[[4-[2-(1-methylethoxy)phenyl]-1-piperazinyl]methyl]benzoyl]piperidine (CP #36, 3.86 g, 0.0092 mol) and toluene (50 mL) was treated with 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide (2.22 g, 0.0055 mole) and the resulting mixture was heated at 90° C. for 1 h. The reaction was cooled followed by the addition of toluene (50 mL), and mixed thoroughly with excess 3N sodium hydroxide solution. The organic layer was separated, washed with saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated to an oily residue. Chromatography of this material on flash silica, using 1.5-2.5% methanol in methylene chloride, afforded CP #1 which was converted to its hydrochloride salt in ethereal hydrochloric acid, 3.61 g (77%), m.p. 221°-224° C. (dec, uncorrected). The structural assignment was supported by 1H NMR, chemical-ionization MS, and IR data.

reactant | 1-[3-[[4-[2-(1-methylethoxy)phenyl]-1-piperazinyl]methyl]benzoyl]piperidine | 0.0092 mol, 3.86 g | CC(C)OC1=C(C=CC=C1)N1CCN(CC1)CC=1C=C(C(=O)N2CCCCC2)C=CC1 | C26H35N3O2
reactant | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
reactant | 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide | 0.0055 mole, 2.22 g | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
reactant | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
reactant | sodium hydroxide | 3N | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | 1-[3-[[4-[2-(1-Methylethoxy)phenyl]-1-piperazinyl]methyl]thiobenzoyl]piperidine Hydrochloride | Cl.CC(C)OC1=C(C=CC=C1)N1CCN(CC1)CC=1C=C(C(=S)N2CCCCC2)C=CC1 | InChI=1S/C26H35N3OS.ClH/c1-21(2)30-25-12-5-4-11-24(25)28-17-15-27(16-18-28)20-22-9-8-10-23(19-22)26(31)29-13-6-3-7-14-29;/h4-5,8-12,19,21H,3,6-7,13-18,20H2,1-2H3;1H
